US06930120B2
(5-Methyl-2-phenethyl-oxazol-4-yl)-acetic acid
(5-Methyl-2-phenethyl-oxazol-4-yl)-acetic acid methyl ester (8.75 g, 33.8 mmol), in MeOH (120 mL) was treated with 5N NaOH (40 mL) and then the solution was warmed to 40° C. After 40 min, the reaction mixture was concentrated under reduced pressure, suspended in water, and then acidified to pH=1 with 5N HCl. The mixture was extracted with EtOAc (2×), dried (MgSO4), and concentrated to provide 5.25 g (63%) of the product as an off-white solid. 1H NMR (400 MHz, CDCl3) •• 1H NMR (400 MHz, CDCl3) δ 7.33-7.20 (m, 5H), 3.52 (s, 2H), 3.06-3.03 (m, 4H), 2.24 (s, 3H).

reactant | (5-Methyl-2-phenethyl-oxazol-4-yl)-acetic acid methyl ester | 33.8 mmol, 8.75 g | COC(CC=1N=C(OC1C)CCC1=CC=CC=C1)=O | C15H17NO3
reactant | NaOH | 5N, 40 mL | [OH-].[Na+]
solvent | MeOH | 120 mL | CO | CH4O
product | (5-Methyl-2-phenethyl-oxazol-4-yl)-acetic acid | 5.25 g, 63% | CC1=C(N=C(O1)CCC1=CC=CC=C1)CC(=O)O | C14H15NO3
